datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[S:11](C)=[CH:10][C:61](C1=CC=CC=C1)=[O:62]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([S+:11](C)C)[C:61](C2=CC=CC=C2)=[O:62])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:63]1=[N+:62]([BH2-:11][H:10])[C:73](C)=[CH:74][CH:65]=[CH:64]1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[C:63]1=[N+:62]([BH2:11])[C:73](C)=[CH:74][CH:65]=[CH:64]1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C:20]2([H:10])CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1 10,11=10,20"
"CC1(C)[O:82][C:71](=[O:72])[C-:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([C:10]2([I+:61]C3=CC=CC=C3)[C:71](=[O:72])[O:82]C(C)(C)[O:102][C:91]2=[O:92])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10=20;20,21=21"
"C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2.ClC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>C[N:23]1[C:22]2=[C:21](C=CC=C2)[CH:20]([CH:10](Cl)[S:61](C2=CC=C(Cl)C=C2)(=[O:62])=[O:72])[C:31]2=[C:32]1C=CC=C2 10=20;20,21=21,22;22,23=23"
"C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C=C[CH:20]([CH:10](C5=CC=CC=C5)[CH:11]=[N+:12]5CCCC5C(C5=CC=CC=C5)(C5=CC=CC=C5)C5=CC=CC=C5)C1C2C43 10,11=10,20;12=11,12;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:62]1=[CH:61][N:10]=[CH:11][NH:12]1>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1[CH:11]=[NH+:12][C:62](C)=[CH:61]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.[N:10]1=[CH:61][CH:62]=[CH:63][CH:72]=[CH:71]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[CH:61][CH:62]=[CH:63][CH:72]=[CH:71]2)[N:21](C)C)[CH:36]=[CH:35]1 10=20;20,21=21"
"CC[O:83][P:72]([CH-:10][C:61]#[N:62])(=[O:73])[O:93]CC.CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CC[O:83][P:72]([CH:10]([CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)[C:61]#[N:62])(=[O:73])[O:93]CC 10=20;20,21=21,22;22,23=23"
"C[C@H]1[C@@H](C)[O:62][C@@:11](C)([H:10])[O:12]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1.FC(F)(F)[S:20][H:10] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[N:12]1[N:11]=[N:10][C:61]2=[C:62]1C=CC=C2>>CC1=CC=C([S:32]([N-:21][CH:20]([N:10]2[N:11]=[N+:12](C)[C:62]3=[C:61]2C=CC=C3)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC(C)(C)C[O:62]2)S1>>CC1(C)C[O+:12]=[B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)[O:62]C1.CC1=CC=[C:10]([CH:20]([C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CC[O:72][C:61]([CH-:10][C:81](C)=[O:82])=[O:62]>>CC[O:72][C:61]([CH:10]([C:20]1([O-:21])CCC2(CC1)OCCO2)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21"
"COC1=C([C:10]#[C:11][N:12](CC2=CC=CC=C2)[S:63](C2=CC=C(C)C=C2)(=[O:64])=[O:74])C=CC=C1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>COC1=C([C:10](=[C:11]=[N+:12](CC2=CC=CC=C2)[S:63](C2=CC=C(C)C=C2)(=[O:64])=[O:74])[Cl:20])C=CC=C1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C.C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])[CH:72]=[CH:73]1>>C[CH:20]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[N+:61]1=[CH:62][CH:63]=[C:64]([N:65](C)C)[CH:73]=[CH:72]1)[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C 10,11=10,20;12=11,12"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[C:10](C)=[CH:11][CH2:62][Si:63](C)(C)C>>C[C:10](C)([CH+:11][CH2:62][Si:63](C)(C)C)[CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC[C:33]3=[CH:32]1)CCC2)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10,11=10,20"
